US04812164
using methyl 2-chloro-5-[2-chloro-6-oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]-4-fluorobenzoate and sodium ethylate in ethanol there is obtained methyl 5-[2-ethoxy-6-oxo-4-trifluoromethyl -1(6H)-pyrimidinyl]-2-chloro-4-fluorobenzoate, m.p. 96°-98° C.;

reactant | methyl 2-chloro-5-[2-chloro-6-oxo-4-trifluoromethyl-1(6H)-pyrimidinyl]-4-fluorobenzoate | ClC1=C(C(=O)OC)C=C(C(=C1)F)N1C(=NC(=CC1=O)C(F)(F)F)Cl | C13H6Cl2F4N2O3
reactant | sodium ethylate | CC[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | methyl 5-[2-ethoxy-6-oxo-4-trifluoromethyl -1(6H)-pyrimidinyl]-2-chloro-4-fluorobenzoate | C(C)OC=1N(C(C=C(N1)C(F)(F)F)=O)C=1C(=CC(=C(C(=O)OC)C1)Cl)F | C15H11ClF4N2O4
